US08877758B2
15.1 2-chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
26.5 g of 7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-ylamine (U.S. Pat. No. 4,409,220) are suspended in 130 ml conc. hydrochloric acid, mixed with 0.1 g copper(I)bromide and cooled to −5° C. A suspension of 11 g sodium nitrite in 14 ml of water is slowly added dropwise. The reaction mixture is stirred for 15 hours at ambient temperature and evaporated almost to dryness. The residue is slowly added to ice water and potassium carbonate. The product is extracted with dichloromethane and precipitated as the hydrochloride with an ethereal HCl solution. 14.3 g product are obtained. M.p=258-262° C.

reactant | 7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepin-2-ylamine | 26.5 g | C(C)N1CCC2=C(CC1)N=CC(=N2)N | C10H16N4
reactant | sodium nitrite | 11 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 130 ml | Cl | ClH
solvent | water | 14 ml | O | H2O
catalyst | copper(I)bromide | 0.1 g | [Cu]Br
product | 2-chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | 14.3 g | ClC=1C=NC2=C(CCN(CC2)CC)N1 | C10H14ClN3
